US07659305B2
(2S,4S)-4-Cyclohexylmethyl-pyrrolidine-2-carboxylic acid mono hydrochloride salt
4-Cyclohexylmethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl-cyclohexyl)ester (Preparation 38, 316 mg, 0.70 mmol) was dissolved in toluene (2 ml). 6N hydrochloric acid (50 ml) was added and stirred at reflux for 72 hours. The reaction mixture was cooled to room temperature and extracted with ethyl acetate (3×20 ml). The aqueous layer was concentrated by evaporation under reduced pressure to give the title compound as a white solid (80 mg, 48%).

reactant | 4-Cyclohexylmethyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-(2-isopropyl-5-methyl-cyclohexyl)ester | 0.70 mmol, 316 mg | C(C)(C)C1C(CC(CC1)C)OC(=O)C1N(CC(C1)CC1CCCCC1)C(=O)OC(C)(C)C | C27H47NO4
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,4S)-4-Cyclohexylmethyl-pyrrolidine-2-carboxylic acid mono hydrochloride salt | 80 mg, 48% | Cl.C1(CCCCC1)C[C@H]1C[C@H](NC1)C(=O)O | InChI=1S/C12H21NO2.ClH/c14-12(15)11-7-10(8-13-11)6-9-4-2-1-3-5-9;/h9-11,13H,1-8H2,(H,14,15);1H/t10-,11-;/m0./s1
